US07713994B2
(4Z)-4-({[4-(Dimethylamino)-3-hydroxybenzyl]amino}methylene)-6-iodoisoquinoline-1,3(2H,4H)-dione
An amount of 300 mg (0.51 mmol) of (4Z)-4-[({4-amino-3-[(triisopropylsilyl)oxy]benzyl}amino)methylene]-6-iodoisoquinoline-1,3(2H,4H)-dione and formylaldehyde (45.9 mg, 1.53 mmol) were dissolved in tetrahydrofuran (3 mL) and methanol (2 mL). After stirring for ten minutes, a mixture of sodium cyanoborohydride (64.1 mg, 1.02 mmol) and acetic acid (0.4 mL, 5.1 mmol) were added drop-wise. The mixture is allowed to stir for 2.5 hours. Tetrabutylammonium fluoride (2 mL) is added and stirred for additional 1 hour. The mixture is neutralized with 1 NHCl solution and extracted with dichloromethane (200 ml), dried over sodium sulfate and evaporated. The desired final product is purified by column chromatography to afford 60 mg (26% yield) of a light brown solid.; mp 198-199° C.

reactant | (4Z)-4-[({4-amino-3-[(triisopropylsilyl)oxy]benzyl}amino)methylene]-6-iodoisoquinoline-1,3(2H,4H)-dione | 0.51 mmol, 300 mg | NC1=C(C=C(CN\C=C\2/C(NC(C3=CC=C(C=C23)I)=O)=O)C=C1)O[Si](C(C)C)(C(C)C)C(C)C | C26H34IN3O3Si
reactant | sodium cyanoborohydride | 1.02 mmol, 64.1 mg | C(#N)[BH3-].[Na+]
reactant | acetic acid | 5.1 mmol, 0.4 mL | C(C)(=O)O | C2H4O2
reactant | Tetrabutylammonium fluoride | 2 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
product | (4Z)-4-({[4-(Dimethylamino)-3-hydroxybenzyl]amino}methylene)-6-iodoisoquinoline-1,3(2H,4H)-dione | 60 mg, 26% yield | CN(C1=C(C=C(CN\C=C\2/C(NC(C3=CC=C(C=C23)I)=O)=O)C=C1)O)C | C19H18IN3O3
